US04067991
Following the procedure of example 1 but substituting (15S) 15-methyl PGF2α for PGF2α and extending the reaction time in refluxing xylene from 24 hours to 48 hours there is produced crude (15S)-15-methyl PGF2α, 1,15-lactone. The crude lactone is purified by repeated chromatography and, further, if desired, by TLC purification to afford in low yield (15S)-15-methyl-PGF2α, 1,15-lactone in essentially pure form.

reactant | PGF2α | CCCCC[C@@H](/C=C/[C@H]1[C@@H](C[C@@H]([C@@H]1C/C=C\CCCC(=O)O)O)O)O | C20H34O5
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | (15S)-15-methyl PGF2α | CCCCC[C@@](C)(/C=C/[C@H]1[C@H](C[C@@H]([C@@H]1C/C=C\CCCC(=O)O)O)O)O | C21H36O5
